US06319920B1
To a solution of 2 M phosgene/toluene (2.0 ml, 4 mmole) in ethyl ether (20 ml) was added a solution of N-[2-(4-methoxyphenyl-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine (0.23 grams, 0.79 mmole) in ethyl ether (30 ml). After 30 minutes the precipitate was collected by filtration and dried in vacuo to give N-[2-(4-methoxyphenyl-1-methylethyl]-N-ethyl-(1-chlorocarbonylpiperidin-4-ylmethyl)amine hydrochloride (0.238 grams, 77%), m.p. 144-145° C.

reactant | phosgene toluene | 4 mmole, 2 M, 2.0 ml | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
reactant | 2-(4-methoxyphenyl-1-methylethyl]-N-ethyl-(piperidin-4-ylmethyl)amine | 0.79 mmole, 0.23 grams | COC1=CC=C(C=C1)C(C)(C)CCNCC1CCNCC1 | C18H30N2O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(4-methoxyphenyl-1-methylethyl]-N-ethyl-(1-chlorocarbonylpiperidin-4-ylmethyl)amine hydrochloride | 0.238 grams, 77% | Cl.COC1=CC=C(C=C1)C(C)(C)CCNCC1CCN(CC1)C(=O)Cl | InChI=1S/C19H29ClN2O2.ClH/c1-19(2,16-4-6-17(24-3)7-5-16)10-11-21-14-15-8-12-22(13-9-15)18(20)23;/h4-7,15,21H,8-14H2,1-3H3;1H
